US04436668
The procedure described in Example 1 is followed, but additionally 5 parts of p-dimethylaminopyridine are introduced into the reaction mixture. Analysis by gas chromatography shows that over the same period 44.8% of n-hexyl carbamate have been converted and 101 parts of di-n-hexyl carbonate (98.0% of theory, based on converted n-hexyl carbamate) are formed; the product is isolated by subsequent fractional distillation at 121°-23° C./4 mbar.

reactant | n-hexyl carbamate | C(N)(OCCCCCC)=O | C7H15NO2
catalyst | p-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | di-n-hexyl carbonate | 98.0% | C(OCCCCCC)(OCCCCCC)=O | C13H26O3
